US08232284B2
To a solution of 4-nitro-2H-1,2,3-triazole (1.0 g, 8.77 mmol), cyclopropylboronic acid (1.51 g, 17.5 mmol), copper (II) acetate (1.59 g, 8.77 mmol) and N,N-dimethylpyridin-4-amine (3.21 g, 26.3 mmol) in toluene (20 ml) was added sodium 1,1,1,3,3,3-hexamethyldisilazan-2-id (14.6 ml, 0.6M toluene solution) under oxygen atmosphere, and the mixture was stirred at 95° C. for 2 days. The reaction solution was cooled to room temperature, water was then added, the mixture was extracted with chloroform, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Biotage, hexane:ethyl acetate=5:1 to 3:1) to give 2-cyclopropyl-4-nitro-2H-1,2,3-triazole (249 mg, yield: 18%) as a yellow oily substance.

reactant | 4-nitro-2H-1,2,3-triazole | 8.77 mmol, 1.0 g | [N+](=O)([O-])C1=NNN=C1 | C2H2N4O2
reactant | cyclopropylboronic acid | 17.5 mmol, 1.51 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium 1,1,1,3,3,3-hexamethyldisilazan-2-id | 0.6M, 14.6 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | water | O | H2O
catalyst | N,N-dimethylpyridin-4-amine | 26.3 mmol, 3.21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper (II) acetate | 8.77 mmol, 1.59 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-cyclopropyl-4-nitro-2H-1,2,3-triazole | 249 mg, yield: 18% | C1(CC1)N1N=CC(=N1)[N+](=O)[O-] | C5H6N4O2
